US07501425B1
1-Bicyclo[2.2.1]hept-2-yl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one (exo)
To a suspension of 300 mg (0.98 mmol) of 1-bicyclo[2.2.1]hept-2-yl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 374 mg (1.96 mmol) of 1-(4-aminophenyl)-4-methylpiperazine in 4.0 mL of acetonitrile is added 377 μL (4.90 mmol) of trifluoroacetic acid. The mixture is heated at 85° C. overnight. The cooled reaction mixture is diluted with ethyl acetate and washed two times with saturated aqueous sodium bicarbonate solution and once with brine. The organic phase is dried over magnesium sulfate and concentrated. The dark solid residue is triturated in 4 mL of 1:1 dichloromethane/ethyl acetate, filtered, washed with ethyl acetate, and dried to give 266 mg (63%) of the title compound: mp 251-254° C. (dec).

reactant | 1-bicyclo[2.2.1]hept-2-yl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.98 mmol, 300 mg | C12C(CC(CC1)C2)N2C(NCC=1C2=NC(=NC1)S(=O)C)=O | C14H18N4O2S
reactant | 1-(4-aminophenyl)-4-methylpiperazine | 1.96 mmol, 374 mg | NC1=CC=C(C=C1)N1CCN(CC1)C | C11H17N3
reactant | trifluoroacetic acid | 4.90 mmol, 377 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Bicyclo[2.2.1]hept-2-yl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 266 mg, 63% | C12C(CC(CC1)C2)N2C(NCC=1C2=NC(=NC1)NC1=CC=C(C=C1)N1CCN(CC1)C)=O | C24H31N7O
